US04406829
Using the procedure of Example 1, (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid and 3-buten-1-ol were reacted to obtain 3-buten-1-yl (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate.

reactant | (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)O)C | C11H16O2
reactant | 3-buten-1-ol | C(CC=C)O | C4H8O
product | 3-buten-1-yl (1R,trans) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)OCCC=C)C | C15H22O2
